US08877782B2
N-Cyclopropylmethyl-6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinamide
A solution of trimethylaluminium (2 M in toluene, 600 μL, 1.2 mmol) was added dropwise (exothermic) to a solution of cyclopropylmethylamine (85 mg, 103 μL, 1.2 mmol) in dioxane (7.5 mL) and the resulting mixture was stirred at room temperature for 1 h. Then a solution of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (103 mg, 0.3 mmol) in dioxane (4 mL) was added. The resulting mixture was then heated at 85-95° C. overnight and then cooled to room temperature and then poured into water and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (78 mg, 68%) which was obtained as an off white solid. MS: m/e=382.3 [M+H]+.

reactant | trimethylaluminium | 1.2 mmol, 2 M, 600 μL | C[Al](C)C
reactant | cyclopropylmethylamine | 1.2 mmol, 103 μL, 85 mg | C1(CC1)CN | C4H9N
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.3 mmol, 103 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
reactant | water | O | H2O
solvent | dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-Cyclopropylmethyl-6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinamide | 78 mg, 68% | C1(CC1)CNC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C21H20FN3O3
